US08071584B2
5-Bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-1H-indole-7-carboxylic acid
To a solution of methyl 5-bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-1H-indole-7-carboxylate (1.3 g, 3.26 mmol) in MeOH (50 mL) was added a solution of 3 N LiOH (3.5 mL, 9.77 mmol). The mixture was stirred for 2 hours at reflux. The reaction was concentrated, and the residue was dissolved in 1N NaOH and extracted with DCM. The combined organic layers were dried (MgSO4) and concentrated, giving 1.2 g (96%) of the title compound.

reactant | methyl 5-bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-1H-indole-7-carboxylate | 3.26 mmol, 1.3 g | BrC=1C=C2C(=CNC2=C(C1)C(=O)OC)CC1CCS(CC1)(=O)=O | C16H18BrNO4S
reactant | LiOH | 9.77 mmol, 3 N, 3.5 mL | [Li+].[OH-]
solvent | MeOH | 50 mL | CO | CH4O
product | 5-Bromo-3-[(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methyl]-1H-indole-7-carboxylic acid | 1.2 g, 96% | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)CC1CCS(CC1)(=O)=O | C15H16BrNO4S
